Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ 1. Mitral valve repair, resection of P1 segment and 
repair with 26-mm ___ Future ring and removal of vegetations from 
the anterior mitral leaflet. 2. Removal of vegetations from the 
tricuspid valve. 3. Patent foramen ovale closure.
 
History of Present Illness:
___ year old female with a history significant for IVDA (on 
suboxone but pt endorses using heroin actively) who was found by 
her parents ___ her room somnolent. She was taken to ___ 
___ and on admission, she had AMS, low BP, fevers, 
tachycardia. Lumbar puncture was performed with 33wbc, 362 rbc, 
glc 57, total protein 60. Head imaging was positive for septic 
emboli, and she also has ___ lesions on exam. Blood cultures 
from ___ grew GPC ___ clusters. She received 1g vanc, 2g CTX, 
and 700mg IV acyclovir. She was admitted to the medicine floor 
and she was mentating well and vital signs were stable until she 
developed hypotension. A right femoral CV was placed and she was 
taken to the MICU, where she responded to IVF. She was 
transferred to ___ for further management of fever, 
tachycardia, hypotension ___ the setting of presumed 
endocarditis. At ___, her EKG showed intermittent junctional 
rhythm and echocardiogram showed no evidence of vegetation. MRI 
of brain was attempted but unable to be completed due to ___ 
intolerance. Neurology was consulted and recommended MRI/MRA 
head and neck and EEG given extensive septic emboli. A TEE was 
done and showed a large vegetation on mitral valve and a 
moderate sized vegetation on tricuspid valve. She was then 
referred to cardiac surgery for evaluation.
 
Past Medical History:
Endocarditis
IVDA
Anxiety
Depression
 
Social History:
___
Family History:
Premature coronary artery disease- non contributory
 
Physical Exam:
Preoperative Physical Exam
Pulse:70 Resp:18  O2 sat:100/3L
B/P  ___
Height:5'9"     Weight:140 lbs

General: NAD, AAO, verbally interactive but easily distractable
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ []
Extremities: Warm [x] well-perfused [x]  Edema [] _____ 
petechial and splinter hemorrhages on bilateral extremities
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 1+
Radial       Right: 2+  Left: 2+

Carotid Bruit        Right: none    Left: none

Discharge Physical Exam:
Pulse:90, NSR Resp:18  O2 sat:98% on RA
B/P  95/60  Tmax 98.8, current 98.2F
Height:5'9"     Weight:67.8 kg

General: Mildly anxious about hospital transfer
Skin:  Warm [x] Dry [x] intact [x]
HEENT: Pupils equal [x] 
Neck:  Supple [x] Full ROM [x] No JVD [x]
Chest: Lungs clear with bilateral basilar rales (R>L) [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x]
Extremities: Warm [x] well-perfused [x]  Edema: none
Right UE PICC site C/D/I
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

 
Pertinent Results:
ADMISSION LABS:
___ 01:31AM BLOOD WBC-10.0 RBC-3.72* Hgb-10.1* Hct-28.9* 
MCV-78* MCH-27.1 MCHC-34.8 RDW-13.4 Plt Ct-80*
___ 01:56AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-3+ 
Macrocy-OCCASIONAL Microcy-OCCASIONAL Polychr-1+ Ovalocy-1+ 
Target-OCCASIONAL Schisto-2+ Burr-2+
___ 01:31AM BLOOD ___ PTT-28.6 ___
___ 01:56AM BLOOD ___ 01:31AM BLOOD Glucose-119* UreaN-15 Creat-0.4 Na-144 
K-2.4* Cl-112* HCO3-20* AnGap-14
___ 10:30AM BLOOD Na-145 K-3.0* Cl-116*
___ 01:31AM BLOOD ALT-28 AST-35 LD(LDH)-439* AlkPhos-64 
TotBili-0.4
___ 01:31AM BLOOD Calcium-8.2* Phos-2.6* Mg-1.9
___ 01:31AM BLOOD Hapto-267*
___ 02:12AM BLOOD Lactate-1.4
___ 04:42AM BLOOD WBC-5.4 RBC-2.89* Hgb-8.3* Hct-25.5* 
MCV-88 MCH-28.8 MCHC-32.5 RDW-16.7* Plt ___
___ 03:30AM BLOOD WBC-6.5 RBC-3.20* Hgb-9.4* Hct-27.8* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-16.9* Plt ___
___ 04:42AM BLOOD Glucose-121* UreaN-8 Creat-0.5 Na-138 
K-3.0* Cl-107 HCO3-26 AnGap-8
___ 08:00PM BLOOD Na-140 K-3.1* Cl-105
___ 06:07AM BLOOD ALT-19 AST-15 AlkPhos-61 TotBili-0.4

.
ECHO ___: The left atrium and right atrium are normal ___ 
cavity size. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Transmitral and tissue Doppler imaging 
suggests normal diastolic function, and a normal left 
ventricular filling pressure (PCWP<12mmHg). The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve, but cannot 
be fully excluded due to suboptimal image quality. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. No masses or vegetations are seen on the mitral 
valve, but cannot be fully excluded due to suboptimal image 
quality. No masses or vegetations are seen on the tricuspid 
valve, but cannot be fully excluded due to suboptimal image 
quality. The estimated pulmonary artery systolic pressure is 
normal. IMPRESSION: Suboptimal image quality. Normal study. 
Normal biventricular cavity sizes with preserved global 
biventricular systolic function. No valvular pathology or 
pathologic flow identified.  
.
CXR  (PA/LAT)
COMPARISON:  Chest radiograph from ___. 
FINDINGS: 
Right IJ central line has been removed.  Postsurgical changes 
including 
sternotomy wires and valve replacement are unchanged.  Bilateral 
pleural 
effusions are improved with resolution of previous pulmonary 
edema.  The 
cardiac silhouette is mildly enlarged.  Right PICC line is seen 
ending ___ 
appropriate position with no complications from procedure.  No 
focal 
consolidation is seen.   
IMPRESSION: Interval improvement of bilateral effusions.   
.
 

___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE 
(Complete) Done ___ at 1:42:37 ___      FINAL  
Referring Physician     ___  
___ of Cardiothoracic Surg
___
___  Status: Inpatient DOB: ___ 
Age (years): ___ F  Hgt (___): 69  
BP (mm Hg): 98/62  Wgt (lb): 144  
HR (bpm): 104  BSA (m2): 1.80 m2  
Indication: Left ventricular function. Mitral valve disease. 
Murmur. Right ventricular function. Valvular heart disease. 
Endocarditis.  
ICD-9 Codes: ___.90, 424.0 
Test Information  
Date/Time: ___ at 13:42    ___ MD: ___, MD 

Test Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler Test Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine: U/S 3 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
 
Findings  
LEFT ATRIUM: No spontaneous echo contrast is seen ___ the ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: PFO is present. 

LEFT VENTRICLE: Normal LV wall thickness, cavity size, and 
global systolic function (LVEF>55%). 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending, transverse and descending thoracic 
aorta with no atherosclerotic plaque. 

AORTIC VALVE: Normal aortic valve leaflets (3). 

MITRAL VALVE: Moderate-sized vegetation on mitral valve. Normal 
mitral valve supporting structures. Mild to moderate (___) MR. 

___ VALVE: Small vegetation on tricuspid valve. Mild [1+] 
TR. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: Trivial/physiologic pericardial effusion. 

GENERAL COMMENTS: Written informed consent was obtained from the 
___. The ___ was under general anesthesia throughout the 
procedure. No TEE related complications. The ___ appears to 
be ___ sinus rhythm.  
Conclusions  
PRE-BYPASS: 
No spontaneous echo contrast is seen ___ the left atrial 
appendage. 
A tiny patent foramen ovale is present.
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending, transverse and descending thoracic aorta are 
normal ___ diameter and free of atherosclerotic plaque.
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion. 
There is a moderate-sized vegetation on the mitral valve. Mild 
to moderate (___) mitral regurgitation is seen. There is a 
small vegetation on the tricuspid valve. 
There is a trivial/physiologic pericardial effusion. 

Post-CPB:
The ___ is ___ SR, on no inotropes.
Preserved biventricular systolic fxn.
There is an annuloplasty ring on the mitral valve. No MR.
___ vegetations on the mitral and tricuspid valves have been 
removed.
The PFO has been closed.
Aorta intact. No other interval changes.   
.
Pathology:
Pathology Report Tissue: Mitral Valve Leaflets. Procedure Date 
of ___ 
Report not finalized. 
Assigned Pathologist ___ 
Please contact the pathology department, ___ 
PATHOLOGY # ___ 
Mitral Valve Leaflets. 
.
Micro:
___ 2:41 pm TISSUE      TRICUSPID VALVE VEGETATION. 
GRAM STAIN (Final ___: 
      Reported to and read back by ___ NP @ 725PM 
___. 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

___ 1:56 pm TISSUE      MITRAL VALVE LEAFLETS AND 
VEGETATION. 
**FINAL REPORT ___
GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

___ 5:56 am IMMUNOLOGY      Source: Line-picc. 
HCV VIRAL LOAD (Final ___:   259,637 IU/mL. 
Performed using the Cobas Ampliprep / Cobas Taqman HCV Test

RAPID PLASMA REAGIN TEST (Final ___:  NONREACTIVE. 

URINE CULTURE (Final ___:    NO GROWTH.

BLOOD CULTURES (FINAL from ___: 
NEGATIVE
___ 06:07AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE
___ 06:07AM BLOOD HIV Ab-NEGATIVE
___ 06:07AM BLOOD HCV Ab-POSITIVE*
        

 
Brief Hospital Course:
This is a ___ ___ with a history of intravenous drug 
abuse, who presented with MSSA endocarditis.  Initially it was 
medically managed.  On TEE from ___ she was found to have a 
very large, mobile vegetation ___ the mitral valve which was 
extremely labile with the risk of embolization. She was also 
found to have multiple embolic infarcts ___ the brain.  The 
mitral valve regurgitation was
only mild. There were more vegetations on the tricuspid valve. 
Again, the tricuspid valve regurgitation was mild. After initial 
medical management, it was decided to take her to the operating 
room ___ view of the extremely mobile vegetation with evidence of 
emboli.  The left ventricular function was well-preserved. On 
___ 
the ___ was brought to the operating room and underwent a 
Mitral valve repair, tricuspid valve debridement and PFO 
closure. Overall the ___ tolerated the procedure well and 
post-operatively was transferred to the CVICU ___ stable 
condition for recovery and invasive monitoring. POD 1 found the 
___ extubated, alert and oriented and breathing comfortably. 
The ___ was neurologically intact and hemodynamically stable 
on no inotropic or vasopressor support. Low dose beta blocker 
was initiated and the ___ was gently diuresed toward the 
preoperative weight. ID followed the ___ and she will be 
treated with Nafcillin for 6 weeks from her operation (___). 
 She also had +HCV diagnosis this admission with viral load of 
259,637 IU/mL.  The ___ was transferred to the telemetry 
floor for further recovery. Chest tubes and pacing wires were 
discontinued without complication. The ___ was evaluated by 
the physical therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 6 the ___ was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The ___ was discharged to the ___ 
___ ___ good condition with appropriate follow up 
instructions. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
2. ClonazePAM 2 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN fever, pain 
2. Aspirin EC 81 mg PO DAILY 
3. Bisacodyl ___AILY:PRN constipation 
4. ClonazePAM 1 mg PO QHS:PRN insomnia 
5. Docusate Sodium 100 mg PO BID 
6. FoLIC Acid 1 mg PO DAILY 
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
8. Ibuprofen 600 mg PO Q8H:PRN pain 
9. Metoprolol Tartrate 12.5 mg PO TID 
hold if SBP <100 or HR <60 
10. Multivitamins 1 TAB PO DAILY 
11. Nafcillin 2 g IV Q4H Duration: 5 Weeks 
(total 6 weeks from surgery date of ___
last dose to be given on ___ 
12. Polyethylene Glycol 17 g PO DAILY 
13. Ranitidine 150 mg PO BID 
14. Senna 2 TAB PO DAILY 
15. Furosemide 20 mg PO DAILY Duration: 7 Days 
16. Potassium Chloride 40 mEq PO Q12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Endocarditis s/p Mitral valve repair, Removal of vegetations 
from the tricuspid valve and Patent foramen ovale closure
Newly diagnosed + Hepatitis C 
Past medical history:
IVDA
Anxiety
Depression

 
Discharge Condition:
Alert and oriented x3 nonfocal, anxious regarding transfer to 
new facility 
Ambulating, deconditioned
Incisional pain managed with oral analgesia 
Incisions: 
Sternal - stable sternum, healing well, no erythema or drainage 
Edema - trace bilaterally 
Extremity - R arm with PICC ___ place, no erythema, edema or 
drainage.

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then ___ the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___